### PR TITLE
feat(GroupTheory/FreeGroup/ReducedWords): add theory of reduced words

### PR DESCRIPTION
**Pull request by b-reinke**
Upstreamed from the [EquationalTheories](https://github.com/teorth/equational_theories) project.

This PR adds the file `GroupTheory/FreeGroup/ReducedWords.lean`, where the predicate of reduced words is defined. It is shown that `reduce` and `toWord` produce reduced words.

This is done in preparation for the theory of cyclically reduced words.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 1]
```diff
@@ -0,0 +1,123 @@
...
+def reduced (L : List (α × Bool)) : Prop := List.Chain' (fun a b => ¬(a.1 = b.1 ∧ (!a.2) = b.2)) L
+
+@[to_additive (attr := simp)]
+theorem reduced_nil : reduced ([] : List (α × Bool)) := List.chain'_nil
+
+@[to_additive (attr := simp)]
+theorem reduced_singleton {a : (α × Bool)} : reduced [a] := List.chain'_singleton a
+
+@[to_additive (attr := simp)]
+theorem reduced_cons {a b: (α × Bool)} :
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:41]: I think this name should have an iff, e.g. `reduced_cons_cons_iff`

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 2]
```diff
@@ -0,0 +1,123 @@
...
+    reduced (a :: b :: L) ↔ ¬(a.1 = b.1 ∧ (!a.2) = b.2) ∧ reduced (b :: L) :=
+  List.chain'_cons
+
+@[to_additive]
+theorem not_step_reduced : reduced L₁ → ¬ Step L₁ L₂
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:46]: The style of this declaration is not in the usual mathlib style. I would personally go for:
```
@[to_additive]
theorem not_step_reduced (h : reduced L₁) : ¬ Step L₁ L₂ := fun step => by
  induction step
  simp [reduced] at h
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 3]
```diff
@@ -0,0 +1,123 @@
...
+  mpr hL := by
+    induction L₁ with
+    | nil => exact reduced_nil
+    | cons x l ih =>
+      cases l with
+      | nil => exact reduced_singleton
+      | cons y l' =>
+        rw [reduced_cons]
+        constructor
+        · intro ⟨eq1, eq2⟩
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:61]: indexing numerals like this should always use the subscript notation, e.g. eq\1 and eq\2

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 4]
```diff
@@ -0,0 +1,123 @@
...
+          obtain ⟨x1, x2⟩ := x
+          obtain ⟨y1, y2⟩ := y
+          simp only at eq1 eq2
+          apply hL l'
+          rw [eq1, ← eq2]
+          apply Step.cons_not
+        · apply ih
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:68]: I personally would golf these 4 lines down to
```
        · exact ih <| fun L₂ step => hL (x :: L₂) <| Step.cons step
```
but I am not a mathlib reviewer and perhaps others would find this unreadable, but I've gotten used to the compressed style and now find it easier to read than a chain of intros/applys/exacts

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 5]
```diff
@@ -0,0 +1,123 @@
...
+@[to_additive]
+theorem reduced_infix : reduced L₂ → L₁ <:+: L₂ → reduced L₁ := Chain'.infix
+
+@[to_additive]
+theorem reduced_min (h : reduced L₁) : Red L₁ L₂ ↔ L₂ = L₁ :=
+  Relation.reflTransGen_iff_eq fun _ => not_step_reduced h
+
+@[to_additive]
+theorem reduced_cons_append_chain {x : α × Bool} {L₁ L₂ : List (α × Bool)} (h : L₁ ≠ []) :
+    reduced (x :: L₁) → reduced (L₁ ++ L₂) → reduced (x :: L₁ ++ L₂) := by
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:82]: the first 2 args should be hypotheses, see https://leanprover-community.github.io/contribute/style.html#hypotheses-left-of-colon

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 6]
```diff
@@ -0,0 +1,123 @@
...
+    tauto
+
+@[to_additive]
+theorem reduced_append_chain {L₁ L₂ L₃ : List (α × Bool)} (h : L₂ ≠ []) :
+    reduced (L₁ ++ L₂) → reduced (L₂ ++ L₃) → reduced (L₁ ++ L₂ ++ L₃) := by
+  intro h1 h2
+  induction L₁
+  case nil => simp [h2]
+  case cons head tail ih =>
+    refine reduced_cons_append_chain (by simp [h]) h1 (ih (reduced_infix h1 ⟨[head], [], by simp⟩))
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:97]: Use `exact` instead of `refine here`

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 7]
```diff
@@ -0,0 +1,123 @@
...
+    rw [List.chain'_iff_forall_rel_of_append_cons_cons]
+    intro ⟨x₁, x₂⟩ ⟨y₁, y₂⟩ l₁ l₂ hl hx
+    simp only at hl hx
+    rw [hx.1, ← hx.2] at hl
+    nth_rw 2 [hl] at h
+    apply reduce.not h
+
+@[to_additive]
+theorem reduced_toWord {x : FreeGroup α} : Red.reduced (x.toWord) := by
+  rw [Red.reduced_iff_eq_reduce]
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:118]: This closes with just a `simp ...` here instead of `rw [...]; simp` so I'd simplify it to that

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+  intro h1 h2
+  induction L₁
+  case nil => simp [h2]
+  case cons head tail ih =>
+    refine reduced_cons_append_chain (by simp [h]) h1 (ih (reduced_infix h1 ⟨[head], [], by simp⟩))
+
+variable [DecidableEq α]
+
+@[to_additive]
+theorem reduced_iff_eq_reduce : reduced L ↔ reduce L = L := by
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:102]:
```suggestion
theorem reduced_iff_reduce_eq : reduced L ↔ reduce L = L := by
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 9]
```diff
@@ -0,0 +1,123 @@
...
+theorem reduced_cons {a b: (α × Bool)} :
+    reduced (a :: b :: L) ↔ ¬(a.1 = b.1 ∧ (!a.2) = b.2) ∧ reduced (b :: L) :=
+  List.chain'_cons
+
+@[to_additive]
+theorem not_step_reduced : reduced L₁ → ¬ Step L₁ L₂
+| red, step => by induction step; simp [reduced] at red
+
+@[to_additive]
+theorem not_step_reduced_iff : reduced L₁ ↔ ∀ L₂, ¬ Step L₁ L₂ where
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:50]:
```suggestion
theorem reduced_iff_not_step : reduced L₁ ↔ ∀ L₂, ¬ Step L₁ L₂ where
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 10]
```diff
@@ -0,0 +1,123 @@
...
+  mp h _ := not_step_reduced h
+  mpr hL := by
+    induction L₁ with
+    | nil => exact reduced_nil
+    | cons x l ih =>
+      cases l with
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:56]: You do induction above but cases here, I'd make both induction

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 11]
```diff
@@ -0,0 +1,123 @@
...
+
+@[to_additive]
+theorem reduced_infix : reduced L₂ → L₁ <:+: L₂ → reduced L₁ := Chain'.infix
+
+@[to_additive]
+theorem reduced_min (h : reduced L₁) : Red L₁ L₂ ↔ L₂ = L₁ :=
+  Relation.reflTransGen_iff_eq fun _ => not_step_reduced h
+
+@[to_additive]
+theorem reduced_cons_append_chain {x : α × Bool} {L₁ L₂ : List (α × Bool)} (h : L₁ ≠ []) :
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:81]:
```suggestion
theorem reduced_cons_append {x : α × Bool} {L₁ L₂ : List (α × Bool)} (h : L₁ ≠ []) :
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 12]
```diff
@@ -0,0 +1,123 @@
...
+    reduced (x :: L₁) → reduced (L₁ ++ L₂) → reduced (x :: L₁ ++ L₂) := by
+  intro h1 h2
+  induction L₁
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:84]: This suffices
```suggestion
  induction L₁ <;> simp_all
```

**Review by vlad902 — COMMENTED** [review]
There are a couple further places where indexing numerals and hypotheses args need to be updated

**Comment by vlad902** [comment]
One last comment, only a few results seem like they actually belong in the Red namespace, e.g. those using `Red`/`Step`, perhaps the namespace should be `FreeGroup`, and those results can be placed in `Red.` on a case-by-case basis, e.g. just using `theorem Red...`

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 13]
```diff
@@ -0,0 +1,123 @@
...
+
+variable {L L₁ L₂ : List (α × Bool)}
+
+namespace Red
+
+/-- Predicate asserting that the word `L` admits no reduction steps, i.e., no two neighboring
+elements of the word cancel. -/
+@[to_additive "Predicate asserting the word `L` admits no reduction steps, i.e., no two neighboring
+elements of the word cancel."]
+def reduced (L : List (α × Bool)) : Prop := List.Chain' (fun a b => ¬(a.1 = b.1 ∧ (!a.2) = b.2)) L
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:32]: Should probably be named `IsReduced` https://leanprover-community.github.io/contribute/naming.html#predicates-as-suffixes

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 14]
```diff
@@ -0,0 +1,123 @@
...
+    reduced (a :: b :: L) ↔ ¬(a.1 = b.1 ∧ (!a.2) = b.2) ∧ reduced (b :: L) :=
+  List.chain'_cons
+
+@[to_additive]
+theorem not_step_reduced : reduced L₁ → ¬ Step L₁ L₂
+| red, step => by induction step; simp [reduced] at red
+
+@[to_additive]
+theorem not_step_reduced_iff : reduced L₁ ↔ ∀ L₂, ¬ Step L₁ L₂ where
+  mp h _ := not_step_reduced h
```
[the remark this answers is not in the document]
Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:51]: I think the version I used is also idiomatic for `mathlib4`, but I would be happy to change it

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 15]
```diff
@@ -0,0 +1,108 @@
...
+elements of the word cancel."]
+def IsReduced (L : List (α × Bool)) : Prop := List.Chain' (fun a b => ¬(a.1 = b.1 ∧ (!a.2) = b.2)) L
+
+@[to_additive (attr := simp)]
+theorem isReduced_nil : IsReduced ([] : List (α × Bool)) := List.chain'_nil
+
+@[to_additive (attr := simp)]
+theorem isReduced_singleton {a : (α × Bool)} : IsReduced [a] := List.chain'_singleton a
+
+@[to_additive (attr := simp)]
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:38]: I'm not 100% sure we want this to be a simp lemma, it seems like it may be useful to keep the LHS-form in some cases, though in induction arguments perhaps this is exactly what we want to simplify. Just thought I'd bring it up without strongly advocating changing it.

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (vlad902) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean]: Indeed a grep does show this style being used, so I retract my comment.

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean (hunk 10 above)
Comment (vlad902) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:55]: You're right, I had misunderstood how cases works for inductive data types.

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 16]
```diff
@@ -0,0 +1,108 @@
...
+    IsReduced (a :: b :: L) ↔ ¬(a.1 = b.1 ∧ (!a.2) = b.2) ∧ IsReduced (b :: L) :=
+  List.chain'_cons
+
+@[to_additive]
+theorem IsReduced.not_step (h : IsReduced L₁) : ¬ Red.Step L₁ L₂ := fun step ↦ by
+  induction step
+  simp [IsReduced] at h
+
+@[to_additive]
+theorem isReduced_not_step_iff : IsReduced L₁ ↔ ∀ L₂, ¬ Red.Step L₁ L₂ where
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:49]:
```suggestion
theorem isReduced_iff_not_step : IsReduced L₁ ↔ ∀ L₂, ¬ Red.Step L₁ L₂ where
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 17]
```diff
@@ -0,0 +1,108 @@
...
+theorem IsReduced.min (h : IsReduced L₁) : Red L₁ L₂ ↔ L₂ = L₁ :=
+  Relation.reflTransGen_iff_eq fun _ => h.not_step
+
+@[to_additive]
+theorem IsReduced.cons_append {x : α × Bool} {L₁ L₂ : List (α × Bool)} (h : L₁ ≠ [])
+    (h₁ : IsReduced (x :: L₁)) (h₁₂ : IsReduced (L₁ ++ L₂)) : IsReduced (x :: L₁ ++ L₂) := by
+  induction L₁ <;> simp_all
+
+@[to_additive]
+theorem IsReduced.append_chain {L₁ L₂ L₃ : List (α × Bool)} (h : L₂ ≠ [])
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:81]:
```suggestion
theorem IsReduced.append_append {L₁ L₂ L₃ : List (α × Bool)} (h : L₂ ≠ [])
```

**Review by vlad902 — APPROVED** [review]
LGTM modulo some small comments.

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean (hunk 15 above)
Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:38]: I think this is fine, my understand is that is a simp lemma for the proposition `IsReduced [a]` being always true and not for `IsReduced [a] = List.chain'_singleton a`, so if there is some lemma that needs `IsReduced [a]` as a hypothesis, `simp` can fill it in automatically using `isReduced_singleton`. The lemma `List.chain'_singleton` has also the `simp` attribute.

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 18]
```diff
@@ -0,0 +1,108 @@
...
+  Relation.reflTransGen_iff_eq fun _ => h.not_step
+
+@[to_additive]
+theorem IsReduced.cons_append {x : α × Bool} {L₁ L₂ : List (α × Bool)} (h : L₁ ≠ [])
+    (h₁ : IsReduced (x :: L₁)) (h₁₂ : IsReduced (L₁ ++ L₂)) : IsReduced (x :: L₁ ++ L₂) := by
+  induction L₁ <;> simp_all
+
+@[to_additive]
+theorem IsReduced.append_append {L₁ L₂ L₃ : List (α × Bool)} (h : L₂ ≠ [])
+  (h₁₂ : IsReduced (L₁ ++ L₂)) (h₂₃ : IsReduced (L₂ ++ L₃)) : IsReduced (L₁ ++ L₂ ++ L₃) := by
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:82]:
```suggestion
    (h₁₂ : IsReduced (L₁ ++ L₂)) (h₂₃ : IsReduced (L₂ ++ L₃)) : IsReduced (L₁ ++ L₂ ++ L₃) := by
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 19]
```diff
@@ -0,0 +1,108 @@
...
+    (h₁₂ : IsReduced (L₁ ++ L₂)) (h₂₃ : IsReduced (L₂ ++ L₃)) : IsReduced (L₁ ++ L₂ ++ L₃) := by
+  induction L₁
+  case nil => simp [h₂₃]
+  case cons head tail ih =>
+    exact h₁₂.cons_append (by simp [h]) (ih (h₁₂.infix ⟨[head], [], by simp⟩))
+
+variable [DecidableEq α]
+
+@[to_additive]
+theorem isReduced_iff_reduce_eq : IsReduced L ↔ reduce L = L where
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:91]: Why not take `reduce L = L` to be the definition of `IsReduced`, and then prove things from there?

Comment (b-reinke) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:91]: This is in analogy to the structure of the other files about free groups, there are different sections for assuming `DecidableEq α` or not. In particular, `reduce` needs this assumption, but the definition of the predicate `IsReduced` doesn't.

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 20]
```diff
@@ -0,0 +1,108 @@
...
+elements of the word cancel. -/
+@[to_additive "Predicate asserting the word `L` admits no reduction steps, i.e., no two neighboring
+elements of the word cancel."]
+def IsReduced (L : List (α × Bool)) : Prop := List.Chain' (fun a b => ¬(a.1 = b.1 ∧ (!a.2) = b.2)) L
+
+@[to_additive (attr := simp)]
+theorem isReduced_nil : IsReduced ([] : List (α × Bool)) := List.chain'_nil
+
+@[to_additive (attr := simp)]
+theorem isReduced_singleton {a : (α × Bool)} : IsReduced [a] := List.chain'_singleton a
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:36]:
```suggestion
theorem isReduced_singleton {a : α × Bool} : IsReduced [a] := List.chain'_singleton a
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 21]
```diff
@@ -0,0 +1,108 @@
...
+        rw [isReduced_cons]
+        refine ⟨fun ⟨eq₁, eq₂⟩ ↦ ?_, ih <| fun L₂ step => hL (x :: L₂) <| Red.Step.cons step⟩
+        obtain ⟨x₁, x₂⟩ := x
+        obtain ⟨y₁, y₂⟩ := y
+        simp only at eq₁ eq₂
+        apply hL l'
+        rw [eq₁, ← eq₂]
+        apply Red.Step.cons_not
+
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:67]:
```suggestion

```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 22]
```diff
@@ -0,0 +1,108 @@
...
+variable {α : Type u}
+namespace FreeGroup
+
+variable {L L₁ L₂ : List (α × Bool)}
+
+/-- Predicate asserting that the word `L` admits no reduction steps, i.e., no two neighboring
+elements of the word cancel. -/
+@[to_additive "Predicate asserting the word `L` admits no reduction steps, i.e., no two neighboring
+elements of the word cancel."]
+def IsReduced (L : List (α × Bool)) : Prop := List.Chain' (fun a b => ¬(a.1 = b.1 ∧ (!a.2) = b.2)) L
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:30]:
```suggestion
def IsReduced (L : List (α × Bool)) : Prop := List.Chain' (fun a b ↦ ¬(a.1 = b.1 ∧ (!a.2) = b.2)) L
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 23]
```diff
@@ -0,0 +1,108 @@
...
+    rw [← h.min]
+    exact reduce.red
+  mpr h := by
+    unfold IsReduced
+    rw [List.chain'_iff_forall_rel_of_append_cons_cons]
+    intro ⟨x₁, x₂⟩ ⟨y₁, y₂⟩ l₁ l₂ hl hx
+    simp only at hl hx
+    rw [hx.1, ← hx.2] at hl
+    nth_rw 2 [hl] at h
+    exact reduce.not h
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:102]:
```suggestion
    rw [IsReduced, List.chain'_iff_forall_rel_of_append_cons_cons]
    rintro ⟨x₁, x₂⟩ ⟨y₁, y₂⟩ l₁ l₂ hl ⟨rfl, rfl⟩
    exact reduce.not (h.trans hl)
```

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean [hunk 24]
```diff
@@ -0,0 +1,102 @@
...
+      | cons y l' =>
+        rw [isReduced_cons]
+        refine ⟨fun ⟨eq₁, eq₂⟩ ↦ ?_, ih <| fun L₂ step => hL (x :: L₂) <| Red.Step.cons step⟩
+        obtain ⟨x₁, x₂⟩ := x
+        obtain ⟨y₁, y₂⟩ := y
+        simp only at eq₁ eq₂
+        apply hL l'
+        rw [eq₁, ← eq₂]
+        apply Red.Step.cons_not
+@[to_additive]
```
Comment (tb65536) [inline Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:66]:
```suggestion
        apply Red.Step.cons_not

@[to_additive]
```

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/FreeGroup/ReducedWords.lean (hunk 15 above)
Comment (tb65536) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:38]: I think @vlad902 was referring to `isReduced_cons` rather than `isReduced_singleton`.

Comment (tb65536) [reply Mathlib/GroupTheory/FreeGroup/ReducedWords.lean:38]: But looks like `List.chain'_cons` also has the `simp` attribute, so this is probably fine as well.

**Comment by b-reinke** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25966
